US08754103B2
Methyl 4-(3-(trifluoromethyl)-[1,2,4]triazolo[4,3-a]pyridin-6-yl)benzoate (12 mg) was dissolved in dioxane (1.5 mL). Lithium hydroxide (1 M in water, 0.5 mL) was added as one portion. After 24 h, quenched with 1N HCl. Extracted with dichloromethane, dried with MgSO4, and concentrated. Isolated 11 mg of 4-(3-(trifluoromethyl)-[1,2,4]triazolo[4,3-a]pyridin-6-yl)benzoic acid (˜100%).

reactant | Methyl 4-(3-(trifluoromethyl)-[1,2,4]triazolo[4,3-a]pyridin-6-yl)benzoate | 12 mg | FC(C1=NN=C2N1C=C(C=C2)C2=CC=C(C(=O)OC)C=C2)(F)F | C15H10F3N3O2
reactant | Lithium hydroxide | 1 M, 0.5 mL | [OH-].[Li+]
solvent | dioxane | 1.5 mL | O1CCOCC1 | C4H8O2
product | 4-(3-(trifluoromethyl)-[1,2,4]triazolo[4,3-a]pyridin-6-yl)benzoic acid | 11 mg, ~100% | FC(C1=NN=C2N1C=C(C=C2)C2=CC=C(C(=O)O)C=C2)(F)F | C14H8F3N3O2
